US07094801B2
4-[3E-(2,4-Dimethoxy-6-thiophen-2-yl-phenyl)-acryloyl]-benzoic acid
The title compound was prepared by condensing 2,4-dimethoxy-6-thiophen-2-yl-benzaldehyde (Ex-39A) and 4-acetylbenzoic acid in a similar manner as described in Ex-3. Yellow solid, 61% yield, mp 231° C. (dec.). 1H-NMR (DMSO-d6) δ 8.02 (d, 2H), 7.93 (d, 2H), 7.73 (m, 3H), 7.15 (t, 1H), 7.07 (d, 1H), 6.72 (d, 1H), 6.62 (d, 1H). MS m/z=394 ([M]+, 6%), 245 (100%). HRMS m/z: calc. 395.0953, found 395.0949.

reactant | 2,4-dimethoxy-6-thiophen-2-yl-benzaldehyde | COC1=C(C=O)C(=CC(=C1)OC)C=1SC=CC1 | C13H12O3S
reactant | 4-acetylbenzoic acid | C(C)(=O)C1=CC=C(C(=O)O)C=C1 | C9H8O3
product | 4-[3E-(2,4-Dimethoxy-6-thiophen-2-yl-phenyl)-acryloyl]-benzoic acid | 61% yield | COC1=C(C(=CC(=C1)OC)C=1SC=CC1)/C=C/C(=O)C1=CC=C(C(=O)O)C=C1 | C22H18O5S
